US07842689B2
Preparation of 3-cyclohexylmorpholin-4-ol
Activated MnO2 (1.29 g, 14.8 mmol) was added to a solution of N-hydroxymorpholine (0.50 g, 4.95 mmol) in dichloromethane (25 mL) at 0° C. and the mixture was stirred for 1 h. The reaction mixture was filtered through a pad of Celite™ and Na2SO4. The filtrate was added dropwise to a solution of cyclohexylmagnesium chloride (2.0 M in diethyl ether, 4.95 mL, 9.90 mmol) at −10° C. The reaction mixture was stirred at 0° C. for 0.5 h and then saturated aqueous ammonium chloride solution (25 mL) and dichloromethane (25 mL) were added. The aqueous phase was separated and extracted with dichloromethane (2×30 mL). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure. The crude product was subjected to flash chromatography on SiO2 eluting with 50% diethyl ether in hexanes to give the title compound (0.220 g, 24%) as a white crystalline solid.

reactant | N-hydroxymorpholine | 4.95 mmol, 0.50 g | ON1CCOCC1 | C4H9NO2
reactant | cyclohexylmagnesium chloride | 9.90 mmol, 2.0 M, 4.95 mL | C1(CCCCC1)[Mg]Cl
reactant | ammonium chloride | 25 mL | [Cl-].[NH4+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | MnO2 | 14.8 mmol, 1.29 g | O=[Mn]=O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-cyclohexylmorpholin-4-ol | 0.220 g, 24% | C1(CCCCC1)C1N(CCOC1)O | C10H19NO2
